US07572784B2
(2-Amino-5-chloro-phenyl)-(2-chloro-6-fluoro-phenyl)-methanone (1ab)
In a manner similar to that described above for compound 1aa, 4-Chloro-N-Boc-aniline and 2-chloro-6-fluoro-benzoyl chloride were converted to 1ab (42% yield) MS m/z=284 (M+H).

reactant | 4-Chloro-N-Boc-aniline | ClC1=CC=C(NC(=O)OC(C)(C)C)C=C1 | C11H14ClNO2
reactant | 2-chloro-6-fluoro-benzoyl chloride | ClC1=C(C(=O)Cl)C(=CC=C1)F | C7H3Cl2FO
product | (2-Amino-5-chloro-phenyl)-(2-chloro-6-fluoro-phenyl)-methanone | 42% yield | NC1=C(C=C(C=C1)Cl)C(=O)C1=C(C=CC=C1F)Cl | C13H8Cl2FNO
